US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-3-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 54 but starting from 5-pyridin-3-yl-4H-pyrazole-3-carboxylic acid (181 mg; 0.96 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (250 mg; 0.96 mmol). The product precipitated out from DCM during workup and after filtration and drying 110 mg (27%) of pure title compound was obtained. 1H-NMR (400 MHz; d6-DMSO): δ 1.17 (s, 3H), 4.20-4.60 (m, 3H), 7.05-7.36 (m, 1H), 7.40-7.65 (m, 1H), 7.80-8.60 (m, 7H), 8.85-9.07 (m, 1H), 13.76 (s, 1H).

reactant | 5-pyridin-3-yl-4H-pyrazole-3-carboxylic acid | 0.96 mmol, 181 mg | N1=CC(=CC=C1)C=1CC(=NN1)C(=O)O | C9H7N3O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.96 mmol, 250 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-3-yl)-1H-pyrazole-5-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)C=1C=NC=CC1 | C22H18ClN7O
